US05145483
Preparation of 5-amino-2-[N-benzyloxycarbonyl -N-(β-hydroxyethyl)amino]phenol
0.24 mole (80 g) of 2-[N-benzyloxycarbonyl-N-(β-hydroxyethyl)amino]-5-nitrophenol in 630 ml of ethyl acetate is subjected to a hydrogen pressure of 9×105 pascals (9 bars) in an autoclave in the presence of 15 g of Raney nickel (water content 50%). After one hour at 85° C., the reaction medium is filtered while hot in order to remove the catalyst. On evaporation of the solvent under vacuum, the expected product crystallizes. After draining and drying, the product obtained is recrystallized from 96° strength alcohol It melts at 142° C.

reactant | 2-[N-benzyloxycarbonyl-N-(β-hydroxyethyl)amino]-5-nitrophenol | 0.24 mole, 80 g | C(C1=CC=CC=C1)OC(=O)N(CCO)C1=C(C=C(C=C1)[N+](=O)[O-])O | C16H16N2O6
reactant | hydrogen | [H][H] | H2
solvent | ethyl acetate | 630 ml | C(C)(=O)OCC | C4H8O2
catalyst | Raney nickel | 15 g | [Ni] | Ni
product | 5-amino-2-[N-benzyloxycarbonyl -N-(β-hydroxyethyl)amino]phenol | NC=1C=CC(=C(C1)O)N(CCO)C(=O)OCC1=CC=CC=C1 | C16H18N2O4
